US08440662B2
Step 4: 1-[4-(4-Methyl-piperazine-1-carbonyl)-phenyl]-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea
To a solution of 1-(4-bromo-phenyl)-3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-urea (2.5 g, 0.006 mol) in 1,4-dioxane (60 mL). were added bis(pinacolato) diboron (2.2 g, 0.0089 mol), KOAc (1.76 g, 0.01797 mol) and PdCl2(dppf).DCM (0.34 g, 0.00041 mol). The reaction vessel was purged with nitrogen for 10 min. The reaction mixture was stirred at 105° C. for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate [3×100 mL]. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude residue. The crude product was purified using column chromatography (60-120 silica gel, 15% MeOH in chloroform) to yield the desired title product [0.9 g, 32%]; 1H NMR (300 MHz, DMSO-d6): δ 8.76 (s, 1H), 8.48 (s, 1H), 7.57 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.7 Hz, 2H), 7.30 (d, J=8.7 Hz, 2H), 6.88 (d, J=9.0 Hz, 2H), 3.34-3.36 (m, 4H) 3.05-3.08 (m, 4H), 2.26 (s, 3H), 1.26 (s, 12H); LC-MS (ESI): Calculated mass: 464.3; Observed mass: 465.1 [M+H]+ (RT: 0.61 min).

reactant | 1-(4-bromo-phenyl)-3-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-urea | 0.006 mol, 2.5 g | BrC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C19H21BrN4O2
reactant | bis(pinacolato) diboron | 0.0089 mol, 2.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.01797 mol, 1.76 g | CC(=O)[O-].[K+]
reactant | DCM | 0.00041 mol, 0.34 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[4-(4-Methyl-piperazine-1-carbonyl)-phenyl]-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | 0.9 g, 32% | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H33BN4O4
